US06046212
2-Amino-4-chlorophenol (50 g, 0.35 mol) was dissolved in 500 ml of 2.5N HCl. The resulting solution was cooled to 0° C., at which a solution of 25.25 g (0.37 mol) of sodium nitrite in 50 ml of water was added slowly. After stirring for 30 minutes, a chilled solution of 70 g (0.42 mol) of potassium iodide in 100 ml of water was added slowly. The temperature of the reaction mixture was allowed to rise to room temperature, at which the reaction mixture was stirred overnight. The reaction mixture was extracted with ethyl acetate and the solvent was distilled off under reduced pressure, whereby 89.7 g of 4-chloro-2-iodophenol were obtained (yield: 99%). Next, 85 g (0.33 mol) of the 4-chloro-2-iodophenol and 32.5 g (0.36 mol) of copper cyanide were dissolved in 150 ml of DMF. After the resultant solution was heated under reflux for 2 hours, the DMF was distilled off under reduced pressure. The residue was extracted with ethyl acetate and the extract was then washed with water. An insoluble matter was filtered off. The solvent was then distilled off under reduced pressure, whereby 40.4 g of 5-chloro-2-hydroxybenzonitrile were obtained (yield: 80%) (melting point: 150.3-152.6° C.).

reactant | 4-chloro-2-iodophenol | 0.33 mol, 85 g | ClC1=CC(=C(C=C1)O)I | C6H4ClIO
reactant | copper cyanide | 0.36 mol, 32.5 g | [Cu](C#N)C#N
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 5-chloro-2-hydroxybenzonitrile | 40.4 g, yield: 80% | ClC=1C=CC(=C(C#N)C1)O | C7H4ClNO
